US08253129B2
Under an argon atmosphere, 14.5 g of phenylboronic acid, 25.7 g of 2-bromoanthracene, 4.62 g of tetraxis(triphenylphosphine)palladium(0), 400 mL of toluene and 200 mL of a 2M aqueous solution of sodium carbonate were mixed. The resultant was refluxed with stirring for 8 hours. After cooling to room temperature, deposited crystals were separated by filtration. By repetition of recrystallization and washing of the obtained solids using toluene-hexane, 19.1 g (yield: 75%) of 2-phenylanthracene was obtained.

reactant | phenylboronic acid | 14.5 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-bromoanthracene | 25.7 g | BrC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C14H9Br
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 2-phenylanthracene | 19.1 g, yield: 75% | C1(=CC=CC=C1)C1=CC2=CC3=CC=CC=C3C=C2C=C1 | C20H14
